US07312214B2
To a solution of 2{4-[4-Chloro-2-(5-chloro-pyridin-2-ylcarbamoyl)-phenylcarbamoyl]-phenyl}-2-methyl-propionic acid methyl ester (485.0 mg, 1 mmol) in THF was added LiBH4 (2.0 ml, 2.0 M solution in THF). The mixture was stirred at 60° C. over night. The reaction mixture was cooled, and quenched with sat'd NH4Cl. HPLC purification gave 2{4-[4-Chloro-2-(5-chloro-pyridin-2-ylcarbamoyl)-phenylcarbamoyl]-phenyl}-2-methyl-propyl alcohol as white solid. MS found: (M+1)+=457.9.

reactant | 2{4-[4-Chloro-2-(5-chloro-pyridin-2-ylcarbamoyl)-phenylcarbamoyl]-phenyl}-2-methyl-propionic acid methyl ester | 1 mmol, 485.0 mg | COC(C(C)(C)C1=CC=C(C=C1)C(NC1=C(C=C(C=C1)Cl)C(NC1=NC=C(C=C1)Cl)=O)=O)=O | C24H21Cl2N3O4
reactant | LiBH4 | 2.0 M, 2.0 ml | [Li+].[BH4-]
solvent | THF | C1CCOC1 | C4H8O
product | 2{4-[4-Chloro-2-(5-chloro-pyridin-2-ylcarbamoyl)-phenylcarbamoyl]-phenyl}-2-methyl-propyl alcohol | ClC1=CC(=C(C=C1)NC(=O)C1=CC=C(C=C1)C(CO)(C)C)C(NC1=NC=C(C=C1)Cl)=O | C23H21Cl2N3O3
